US07166273B2
Ethyl-alpha-acetyl-3-methoxy-4-hydroxy-cinnamate
Condensation of 3-methoxy-4-hydroxy benzaldehyde (vanillin) with ethyl acetoacetate in the presence of piperidine-acetic acid and benzene as the reaction medium at reflux temperature yields the title product. The reaction takes about 3.5 hours for completion.

reactant | 3-methoxy-4-hydroxy benzaldehyde | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine-acetic acid | N1(CCCCC1)CC(=O)O | C7H13NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl-alpha-acetyl-3-methoxy-4-hydroxy-cinnamate | C(C)OC(C(=CC1=CC(=C(C=C1)O)OC)C(C)=O)=O | C14H16O5
